US08304557B2
N-[3-({2-[(cyclopropylcarbonyl)amino][1,2,4]triazolo[1,5-a]pyridin-6-yl}oxy)phenyl]-1-methyl-1H-indazole-3-carboxamide
In the same manner as in Example 18-4 and using 1-methyl-1H-indazole-3-carboxylic acid (300 mg, 1.70 mmol), tetrahydrofuran (10 mL), oxalyl chloride (222 μL, 2.55 mmol), N-[6-(3-aminophenoxy)[1,2,4]triazolo[1,5-a]pyridin-2-yl]cyclopropanecarboxamide (200 mg, 0.647 mmol), N,N-dimethylformamide (2 drops) and N,N-dimethylacetamide (10 mL) as starting materials, the title compound (85.0 mg, 28%) was obtained as a white solid.

reactant | 1-methyl-1H-indazole-3-carboxylic acid | 1.70 mmol, 300 mg | CN1N=C(C2=CC=CC=C12)C(=O)O | C9H8N2O2
reactant | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
reactant | oxalyl chloride | 2.55 mmol, 222 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N-[6-(3-aminophenoxy)[1,2,4]triazolo[1,5-a]pyridin-2-yl]cyclopropanecarboxamide | 0.647 mmol, 200 mg | NC=1C=C(OC=2C=CC=3N(C2)N=C(N3)NC(=O)C3CC3)C=CC1 | C16H15N5O2
catalyst | N,N-dimethylformamide | 2 drops | CN(C=O)C | C3H7NO
solvent | N,N-dimethylacetamide | 10 mL | CN(C(C)=O)C | C4H9NO
product | N-[3-({2-[(cyclopropylcarbonyl)amino][1,2,4]triazolo[1,5-a]pyridin-6-yl}oxy)phenyl]-1-methyl-1H-indazole-3-carboxamide | 85.0 mg, 28% | C1(CC1)C(=O)NC1=NN2C(C=CC(=C2)OC=2C=C(C=CC2)NC(=O)C2=NN(C3=CC=CC=C23)C)=N1 | C25H21N7O3
